US06350749B1
A solution of 5-(3-chlorothiophen-2-yl)-2-(1-hydroxyethylidene)-cyclohexane-1,3-dione (2.2 g) and hydrazine hydrate (0.45 g) in ethanol (60 ml) was refluxed for 2 hours. Under reduced pressure, the solvent was evaporated, and the residue was recrystallized from ethyl acetate-hexane to give colorless crystals of 6-(3-chlorothiophen-2-yl)-3-methyl-4,5,6,7-tetrahydroindazol-4-one (1.3 g).

reactant | 5-(3-chlorothiophen-2-yl)-2-(1-hydroxyethylidene)-cyclohexane-1,3-dione | 2.2 g | ClC1=C(SC=C1)C1CC(C(C(C1)=O)=C(C)O)=O | C12H11ClO3S
reactant | hydrazine hydrate | 0.45 g | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-(3-chlorothiophen-2-yl)-3-methyl-4,5,6,7-tetrahydroindazol-4-one | 1.3 g | ClC1=C(SC=C1)C1CC(C=2C(=NNC2C1)C)=O | C12H11ClN2OS
